US09403802B2
ethyl 4-oxo-1-{4-[1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl]benzyl}-1,4-dihydroquinoline-3-carboxylate
To a suspension of ethyl 1-(4-bromobenzyl)-4-oxo-1,4-dihydroquinoline-3-carboxylate (0.8 g) known from a document (Journal of Medicinal Chemistry, 2007, 50, 5471), 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.86 g) and potassium phosphate (1.1 g) in DME-water (4:1, 20 mL) was added [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.08 g), and the mixture was stirred at 100° C. for 1 hr under microwave irradiation. The reaction mixture was diluted with ethyl acetate, and the insoluble material was filtered off. The filtrate was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by silica gel chromatography (hexane-ethyl acetate) to give the title compound (0.37 g) as a pale-yellow solid.

reactant | ethyl 1-(4-bromobenzyl)-4-oxo-1,4-dihydroquinoline-3-carboxylate | 0.8 g | BrC1=CC=C(CN2C=C(C(C3=CC=CC=C23)=O)C(=O)OCC)C=C1 | C19H16BrNO3
reactant | 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.86 g | O1C(CCCC1)N1N=CC=C1B1OC(C(O1)(C)C)(C)C | C14H23BN2O3
reactant | potassium phosphate | 1.1 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DME water | 20 mL | COCCOC.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.08 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe]
product | ethyl 4-oxo-1-{4-[1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl]benzyl}-1,4-dihydroquinoline-3-carboxylate | 0.37 g | O=C1C(=CN(C2=CC=CC=C12)CC1=CC=C(C=C1)C1=CC=NN1C1OCCCC1)C(=O)OCC | C27H27N3O4
